US07064215B2
Synthesis of N′-[3-(1H-Benzoimidazol-2-yl)-1H-indazol-5-yl]-N,N-dimethyl-propane-1,3-diamine
A solution of N,N-dimethyl-N′-{1-(2-trimethylsilanyl-ethoxymethyl)-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-indazol-5-yl}-propane-1,3-diamine in THF was treated with ethylene diamine (20 equivalents) and tetrabutylammonium fluoride (20 equivalents) and heated at 70° C. overnight. The resulting crude residue was purified by reverse phase HPLC to N′-[3-(1H-Benzoimidazol-2-yl)-1H-indazol-5-yl]-N,N-dimethyl-propane-1,3-diamine. LC/MS (m/z) 335.1 (MH+), Rt 1.30 minutes.

reactant | N,N-dimethyl-N′-{1-(2-trimethylsilanyl-ethoxymethyl)-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-indazol-5-yl}-propane-1,3-diamine | CN(CCCNC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)C | C31H50N6O2Si2
reactant | ethylene diamine | 20 equivalents | C(CN)N | C2H8N2
reactant | tetrabutylammonium fluoride | 20 equivalents | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | N′-[3-(1H-Benzoimidazol-2-yl)-1H-indazol-5-yl]-N,N-dimethyl-propane-1,3-diamine | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC=C(C=C21)NCCCN(C)C | C19H22N6
